Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Vancomycin / Iodine; Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl
 
Attending: ___
 
Chief Complaint:
Abdominal pain

 
Major Surgical or Invasive Procedure:
1.Exploratory laparotomy, sigmoid resection, ___ procedure 
and   end-colostomy. 
2. Intra-abdominal drain placement, then removal on ___

 
History of Present Illness:
The patient is a ___ female with past medical history 
significant for  atrial fibrillation, hyperlipidemia, asthma, 
hypertension, diet-controlled type II diabetes mellitus, 
myocardial infarction with PCI (RCA stent in ___, 
status-post CABG x1 ___ a history of Acute Myelogenous 
Leukemia with allogenic bone marrow transplant done ___, on 
regular low dose steroids for GVHD of the skin s/p BMT, who 
presented on ___ complaining of ___ days of "crampy" lower 
abdominal pains. The pain was acute in onset over a 1 day 
period. She denied any associated fevers, chills. No 
accompanying nausea or emesis, and she also denied any pain with 
urination. 
.
Of relevance, Mrs. ___  has known diverticulosis which was 
identified on a colonoscopy about ___ years ago. Other 
pertinent GI related conditions include her history of abdominal 
pains and diarrhea which eventually led to the discovery of 
C.difficile colitis back in ___. She states she had a 
recurrence of her C.difficile again in ___ but was then 
effectively treated and her symptoms had completely resolved. 
.
Due to her severe abdominal cramping and pains, she was 
initially observed in the ICU setting with the intention to 
manage her conservatively with medications and supportive 
therapy as she was felt to be a poor surgical candidate given 
her previous cancer and cardiac history and being on ASA and 
Plavix on admission. 
.

 
Past Medical History:
- Coronary Artery Disease, STEMI in ___ s/p PCI/stenting to 
RCA at that time
- History of AML, s/p chemotherapy, radiation and bone marrow 
transplantation
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type two diabetes mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Diff ___ & ___  
- History of VRE
- History of Shingles
- History of Asthma

 
Social History:
___
Family History:
The patient's mother with a history of stroke. Both of her 
maternal and paternal grandmothers also had a history of CVA. 
Father with history of colon ___. No other known history of 
cancer in the family. No known blood disorders. Has a sister 
with ___. She has 2 sisters, the other sister with 
hypertension. 
 
Physical Exam:
Initial Physical Exam:
Vitals- T 95, HR 75, BP 104/53, RR 22, O2sat 96% RA
Gen- NAD, alert
Head and neck- AT, NC, soft, supple, no masses
Heart- RRR, no murmurs
Lungs- CTAB, no rhonchi, no crackles
Abd- soft, ND, tender in lower abdomen (R > L), no rebound, mild
tenderness to percussion
Ext- warm, well-perfused, no edema

.
.
Physical Exam on Admission to ___ service:
Vitals - T:96.7 BP:112/58 HR:77 RR:20 02 sat:96% on RA
HEENT: NCAT, PERRL, EOMI, no pharyngeal erythema, no scleral 
icterus, no nasal d/c, no LAD
Cardiac: rrr nls1/s2 no m/r/g
Pulm: + mild crackles at the L lung base
Abd: + ostomy bag in place, no surrounding erythema, +bs, soft, 
NTND, no HSM
UE: erythema around L arm line but no warmth or tenderness, + 
non pitting edema in upper arm and elbow
___: + non pitting edema in ___ up to thigh
Neuro: alert and awake, ___ reflexes +2 
.
.
Physical exam on day of discharge:
Vitals: Tc 98.5F, BP 108/74, HR 61, RR20, oxygen 96 RA
HEENT: NCAT, PERRL, EOMI, no pharyngeal erythema, no scleral 
icterus, no nasal d/c, no LAD
Cardiac: RRR, S1/S2 regular, no murmurs/rubs/gallops
Pulm: mild bibasilar crackles noted at bases
Abd: + ostomy bag in place, no surrounding erythema, bowel 
sounds in tact and normoactive, soft, NTND, no HSM
___: no edema in extremities, 2+ pedal pulses bilaterally 
Neuro: alert and awake, CNs ___ grossly in tact, upper and 
lower extremities with appropriate motor and sensory exams
 
Pertinent Results:
LABS ON ADMISSION :
___ 06:55PM BLOOD WBC-5.2 RBC-4.66 Hgb-15.4 Hct-43.1 MCV-93 
MCH-33.1* MCHC-35.7* RDW-14.8 Plt ___
___ 06:55PM BLOOD Glucose-162* UreaN-23* Creat-1.3* Na-134 
K-4.9 Cl-97 HCO3-25 AnGap-17
___ 06:55PM BLOOD Calcium-9.6 Phos-3.7 Mg-1.9
___ 06:55PM BLOOD ___ PTT-27.4 ___
.
ADDITIONAL CARDIOLOGY REPORTS/STUDIES:
___ EKG : rate 77, Sinus rhythm. Left axis deviation and 
diffuse ST-T wave changes in the anterolateral leads. Compared 
to the previous tracing of ___ the ST-T wave changes are 
slightly more apparent and the other findings are similar.
.
___ EKG: Rate 128, Atrial fibrillation with rapid ventricular 
response. Leftward axis. Inferior myocardial infarction, age 
undetermined. There is somewhat early R wave progression. ST-T 
wave abnormalities in the precordial leads. Since the previous 
tracing of ___ atrial fibrillation is new. Clinical 
correlation is suggested. 
.
___ EKG : rate 58-60, Baseline artifact. Sinus bradycardia. 
Inferior wall myocardial infarction. ST-T wave abnormalities. 
Since the previous tracing of ___ atrial fibrillation with 
rapid ventricular response is no longer seen. 
.

ADDITIONAL IMAGING STUDIES:
___ CT ABDOMEN AND PELVIS W/O CONTRAST:
1. Small amount of pneumoperitoneum anteriorly and also around 
the liver.
Small pelvic free fluid also tracking up along the right 
paracolic gutter.
Extensive colonic diverticulosis, with mild stranding 
surrounding a loop of
sigmoid colon in the left lower quadrant suggesting sigmoid 
diverticulitis as possible source for perforation. The appendix 
appears normal throughout its length.
2. Cholelithiasis.
3. Atherosclerotic disease.
.
.
___ PORTABLE CXR: The cardiomediastinal silhouette is 
unremarkable. The lungs are clear. There is no free air under 
the diaphragm. There is stable deformity of one of the right 
ribs, likely related to old trauma or surgical intervention. 
CONCLUSION: No acute cardiopulmonary process. No air under the 
diaphragm.

.
___ CXR : New right picc line with tip in proximal svc. 
Intraperitoneal air remains, possibly with slight increase vs 
redistribution. Minimal retrocardiac opacity c/w atelectasis 
however minimal infectious vs inflammatory process cannot be 
excluded. 
.

___ CT ABD/PELVIS W/O CONTRAST FINDINGS:
Visualized portions of the lung bases are unchanged from the 
previous study. There is no pleural or pericardial effusion. 
Coronary arterial calcification is also noted. A moderate-sized 
pneumoperitoneum is enlarged since ___. A small amount of 
free-fluid is also seen, predominantly in a perihepatic location 
as well as a second collection at the base of the mesentery 
(2:49). The unenhanced liver, spleen, pancreas, adrenal glands 
and kidneys are unremarkable. Note is made of a gallstone within 
an otherwise unremarkable gallbladder, unchanged. 
Atherosclerotic calcification is noted along the abdominal aorta 
and its arterial branches and note is also made of aortic 
ectasia. Scattered mesenteric and retroperitoneal lymph nodes 
are visualized, none of which meet CT criteria for pathologic 
enlargement.
The previously described area of thickening along the sigmoid 
colon in the
area of known diverticulosis is again visualized, and there is 
also
extraluminal leak of oral contrast. This extraluminal contrast 
accumulates
predominantly in the pelvis, near the sigmoid colon. This 
finding along with the enlarging pneumoperitoneum is indicative 
of a perforation, likely
at the sigmoid colon.
A Foley catheter is seen within an otherwise normal urinary 
bladder. The
uterus and rectum are unremarkable. There is no pelvic or 
inguinal
lymphadenopathy.
OSSEOUS FINDINGS: Multilevel degenerative changes throughout the
thoracolumbar spine are unchanged. No suspicious sclerotic or 
lytic lesions.
IMPRESSION:
1. Pneumoperitoneum, larger since ___ ___s 
extraluminal leak of
oral contrast, collecting near the sigmoid colon. Overall, these 
findings are concerning for a perforated sigmoid diverticulum.
2. Unchanged cholelithiasis.
3. Atherosclerotic disease.
.
___ CT CHEST :
FINDINGS: The previously seen scattered ground-glass opacities, 
predominantly within the right lung have resolved. However, new 
focal opacities, to a much lesser extent than previous, are seen 
within the right upper lobe in the azygoesophageal recess and 
along the medial anterior right lower lobe abutting the fissure 
and mediastinum (5:180). There is diffuse acute dilatation of 
the airways with several areas of mucoid impaction as well as 
bronchial wall thickening bilaterally. There are no discrete 
pulmonary nodules. There are small bilateral pleural effusions, 
left greater than right, the left has slightly increased in size 
since ___. There is no pericardial effusion or 
lymphadenopathy. A new right main coronary artery stent has been 
placed.
This examination was not tailored for subdiaphragmatic 
evaluation. Limited views of the upper abdomen demonstrate new 
ascites. Layering gallstones are noted. The remainder of the 
upper abdomen is unremarkable.
There is extensive worsened anasarca.
There are no osseous lesions suspicious for malignancy.
IMPRESSION:
1. Acute airway infection with associated focal parenchymal 
involvement.
2. Previous extensive ground-glass opacity has nearly resolved.
3. New ascites.
4. Stable little-sized aortic pseudoaneurysm incompletely 
evaluated without IV contrast.
5. Small bilateral pleural effusions with the left, slightly 
increased. 
.
.
___ PA ans LAT CXR: PA and lateral upright chest radiograph 
were compared to ___ and chest CT from ___.
The left PICC line tip is at the junction of brachiocephalic 
vein and SVC. The cardiomediastinal silhouette is stable. The 
lungs are essentially clear
except for linear atelectasis at the lingula. Bilateral left 
more than right pleural effusions are grossly unchanged. Right 
coronary artery is stented.
.
.
___ CT ABD AND PELVIS: IMPRESSION:
1. Large, likely multiloculated fluid collection extending from 
the pelvis
adjacent to the surgical chain sutures into the lower left 
abdomen. Given
patient's clinical symptoms superinfection is suspected. 
Portions of the
fluid collection do appear amenable to percutaneous 
aspiration/drainage.
2. Colonic diverticulosis without evidence of acute 
diverticulitis. No
findings to suggest bowel obstruction, although oral contrast 
has not yet
progressed through the entire remaining large bowel.
3. Interval development of small simple left pleural effusion 
with adjacent
compressive atelectasis.
4. Unchanged cholelithiasis without secondary findings to 
suggest acute
cholecystitis.
.
.
___ CT-GUIDED PELVIC ABSCESS DRAINAGE
HISTORY: ___ patient with colostomy for perforated 
diverticulitis.
CT scan from yesterday showed a left pericolic abscess. Catheter 
drainage of the abscess was requested. PROCEDURE: Procedure and 
its complications were explained. Informed consent obtained. 
Laboratory values checked, INR was initially elevated, fresh 
frozen plasma was used to lower this to 1.5. The patient is also 
on aspirin and Plavix, which could not be discontinued because 
of the cardiac considerations. It was decided to proceed with 
the CT-guided abscess drainage. Timeout was performed. Area of 
interest was localized under CT fluoroscopy. The skin was 
prepped and draped in the usual manner. 1% lidocaine used for 
local anesthetic. Conscious sedation was also used. Under CT 
fluoroscopic guidance, a 10 ___ ___ catheter was placed 
in the left pericolic abscess. Approximately 30 cc of thick pus 
were aspirated. Specimen has been sent for microbiology and cell 
count. Patient tolerated the procedure well. 
CONCLUSION: Successful placement of 10 ___ pigtail catheter 
in the left
pericolic abscess. Tube left to JP bulb suction. No obvious 
complications at the time of the procedure.

.
___ CT ABD & PELVIS W/OUT CONTRAST: IMPRESSION:
1. Slight interval decrease in size of a left flank and pelvic 
collection
with pigtail catheter in place in unchanged position. No 
interval change in
size of smaller possibly separate collection in the right flank.
2. Opacification of the ___ pouch shows no evidence of 
contrast leakage into the adjacent fluid collection.
3. Diverting colonostomy with diverticulosis of the most distal 
segment of
bowel and mild wall thickening, but no evidence of obstruction.
4. 2.5 cm focal ectasia of the infrarenal abdominal aorta.
5. Bilateral pelvicaliectasis. Other than inflammatory
process in the pelvis, no etiology for ureteral obstruction is 
identified.
Suggest careful correlation with renal function tests. The 
degree of
dilation of the collecting systems can be assessed with 
ultrasound if
clinically indicated.
.
___ : CT ABDOMEN W/O CONTRAST; CT PELVIS W/O CONTRAST
IMPRESSION:
1. Further decrease in size of the left flank and pelvic 
collection. The
catheter is in appropriate position.
2. ___ pouch opacified with contrast and no evidence of 
leak.
3. Complete resolution of bilateral mild hydronephrosis.  
.
MICROBIOLOGY : 
 
Blood Culture, Routine (Final ___:    NO GROWTH.
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH
Blood Culture, Routine (Final ___:    NO GROWTH
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___:    NO GROWTH. 
Blood Culture, Routine (Final ___: NO GROWTH.
.
Log-In Date/Time: ___ 4:34 pm
      ABSCESS LEFT PARACOLIC GUTTER.S/P SURGERY FOR 
DIVERTICULITIS. 

                            **FINAL REPORT ___
   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      WOUND CULTURE (Final ___: 
     PSEUDOMONAS AERUGINOSA.    RARE GROWTH. 
     SENSITIVITIES: MIC expressed in MCG/ML
 _________________________________________________________
                    PSEUDOMONAS AERUGINOSA
                             |   
CEFEPIME--------------     2 S
CEFTAZIDIME-----------     4 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------     8 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S

ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 
FUNGAL CULTURE (Final ___:    NO FUNGUS ISOLATED. 
.
MRSA SCREEN (Final ___:  No MRSA isolated.
.
RESPIRATORY SCREEN: FINAL REPORT ___
Rapid Respiratory Viral Antigen Test (Final ___: 
Positive for Respiratory Syncytial viral antigen. 
SPECIMEN SCREENED FOR: ADENO,PARAINFLUENZA 1,2,3 INFLUENZA A,B 
AND
RSV.  
.
.
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 
.
URINE CULTURE (Final ___:    NO GROWTH. 
URINE CULTURE (Final ___:    NO GROWTH.
URINE CULTURE (Final ___:    NO GROWTH. 
URINE CULTURE (Final ___:    NO GROWTH.
URINE CULTURE (Final ___: YEAST. 10,000-100,000 
ORGANISMS/ML.
.
.
LABS ON DISCHARGE: 
___ 12:02AM BLOOD WBC-7.0 RBC-3.50* Hgb-10.4* Hct-31.8* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-16.7* Plt ___
___ 12:02AM BLOOD Neuts-66 Bands-0 ___ Monos-8 Eos-4 
Baso-1 ___ Metas-1* Myelos-0
___ 12:02AM BLOOD Plt Smr-NORMAL Plt ___
___ 12:02AM BLOOD Glucose-93 UreaN-7 Creat-1.1 Na-138 K-4.0 
Cl-104 HCO3-29 AnGap-9
___ 12:02AM BLOOD ALT-33 AST-38 LD(LDH)-199 AlkPhos-73 
TotBili-0.4
___ 12:02AM BLOOD Calcium-8.8 Phos-2.5* Mg-2.0
 
Brief Hospital Course:
.
#Abdominal Pain:  Mrs. ___ was admitted for lower quadrant 
crampy abdominal pains. The patient was considered a high-risk 
operative candidate due to her cardiac and cancer history, and 
her pain was focal and isolated to her right lower quadrent, and 
thus initially received conservative treatment. CT of 
abdomen/pelvis at time of admission had showed small amount of 
pneumoperitoneum anteriorly and also around the liver. Small 
pelvic free fluid also tracking
up along the right paracolic gutter. Extensive colonic 
diverticulosis, with mild stranding surrounding a loop of 
sigmoid colon in the left lower quadrant suggesting sigmoid 
diverticulitis as possible source for perforation. 

She was started on Zosyn early on in her hospital course. Though 
she initially responded quite well to the IV antibiotics with 
significant improvement in her abdominal pain for the first ___ 
days, he patient's abdominal pain & overall appearance worsened 
on hospital day #4, and it was clear that she needed to be taken 
to the operating room for a exploratory laparotomy. Repeat 
imaging confirmed perforated sigmoid diverticulum.   She was 
given FFP, Vitamoin K to correct her INR of 8, and 1 unit of 
PRBC and taken to the operating room. In the O.R. the surgical 
team found a thickened indurated colon but no masses. There was 
an extensive area of inflammatory changes with a small area of 
focal perforation along sigmoid colon. There was contained stool 
in the pelvis. She underwent surgery for a perforated 
diverticulum including a sigmoidectomy, ___ pouch, and 
colostomy with a plan for anastamosis in the future. Her 
operative course was relatively uncomplicated, she did have some 
intra-op bleeding which was managed with cautery and FFP. 

Her post-op course was later complicated by fever after being 
taken off Zosyn (her zosyn was continued post operatively for 
PNA treatment). On CT of the abdomen she was found to have 
loculated fluid collections which required post-operative ___ 
drainage and a JP drain was left in place. She then had to go 
for repeat ___ drainage to help break up the loculations. For 
enteric broad coverage she was started on Zosyn, Vancomycin, 
Caspofungin, and Gentamicin and her abdominal fluid grew 
pseudomonas which was fortunately sensitive to multiple agents. 
As she continued to recover steadily she was gradually taken off 
of Vancomycin, Caspofungin and Gentamicin but continued on 
Zosyn. 
.
A repeat CT was done on ___ to assess interval changes and it 
appeared that there was continued decrease in size of the left 
flank and pelvic collections, ___ pouch showed no evidence 
of leak, and she also had complete resolution of bilateral mild 
hydronephrosis. After this reassuring CT study the surgical team 
removed her one remaining JP drain on her left abdomen. 
Colostomy site and prior JP entry site were clean, dry, 
non-edematous, non-erythematous and in tact at time of 
discharge. She was set-up with home line care services for her 
PICC line and she was also set up for additional home ___ 
services at time of discharge. She had no signs of fevers, 
abdominal pains, leukocytosis or discomfort for several days 
leading up to her discharge date. She was instructed to continue 
her daily Zosyn coverage up until her follow up surgery 
outpatient appointment at the end of ___ with Dr. ___.  
A repeat CT was set-up a few days prior to this appointment to 
allow for final review for any recurrent abscesses or 
collections prior to final removal of PICC and antibiotic 
discontinuance. 
.

# History of AML: The patient's hematologic/oncology history 
dates back to ___ after routine labs indicated persistent 
pancytopenia. She had an initial bone marrow biopsy with 
myelodysplasia with no cytogenetic abnormalities and additional 
workup that was most consistent with MDS. ___ vitamin B12 
deficiency was also diagnosed during her initial Heme/Oncology 
work-up. A repeat bone marrow biopsy showed acute 
erythroleukemia and she was diagnosed with AML. She was admitted 
___ for induction chemotherapy with 7+3 cytarabine and 
idarubicin, which she tolerated well. She underwent allogeneic 
transplantation from an HLA matched sibling donor with 
pentostatin/TBI in ___. She had additional note of 
subsequent mild GVHD, predominantly over her skin and mouth. At 
time of this current admission she had been doing well from an 
oncologic standpoint and she was on 3mg daily Prednisone, and a 
prophylactic dose of acyclovir 400mg PO TID. During this 
admission she was given her inhaled pentamidine on ___. Upon 
discharge, Mrs. ___ was set up for close follow-up appointment 
with Dr. ___ primary oncologist. 
.
# Anemia: The patient developed anemia while in the hospital but 
it remained stable. Iron studies showed that she was not iron 
deficient. As aforementioned she had a vitamin B12 deficiency 
recognized back in ___ during her initial referral visits to 
the hematology/oncology service for pancytopenia. Her B12 shot 
was given on ___ during this hospital stay. She did require 
blood transfusions during her hospitalization both 
___ and after her ___ drainage. She tolerated these 
very well with no significant reactions of note. Hematocrit at 
admission was 43 and she had nadir to ___ range and by time of 
discharge her hematocrit was back to ___ range consistently 
and she had no signs of any active bleeding.  
.
# Hypoxia: Post operatively Mrs. ___ became hypoxic with an 
oxygen requirement.  She was found to have a positive RSV 
respiratory study ___. A CT from ___ showed new focal 
opacities in the RUL. She also had diffuse acute dilatation of 
the airways with mucoid impaction and bronchial wall thickening 
bilaterally. She had slightly increased pleural effusions and 
her ground-glass opacity has mostly resolved. Her oxygen 
requirement resolved on ___. Per surgical team notes she ahd 
been placed on Zosyn prior to her surgery and after being 
diagnosed with probable RUL PNA her therapy was prolonged per ID 
recommendations, particularly  given her additional abdominal 
collections (alongside Gentamicin). She was placed on albuterol 
nebulizers and inhalers which she continued to use with 
decreasing frequency as her breathing came back to baseline.  
Blood cultures during her hospitalization were all negative. 
Given her PMH of mild asthma she was discharged to continue her 
usual home albuterol inhaler on an as-needed basis and to notify 
her doctor if she had any additional fevers, productive cough or 
recurrent dyspnea. 
.
# Coronary Artery Disease:  Mrs. ___ had history of CAD with 
prior inferior STEMI in ___ for which she underwent RCA 
stenting, and later had an endoscopic CABG x1. She was continued 
on her usual Plavix, aspirin, and atorvastatin therapy. She was 
set up for ___ follow up appointment with Dr. ___ 
discharge. 
.
#Hypertension: Metoprolol dose was decreased to metoprolol 
tartrate 12.5 BID as her blood pressure well controlled on this 
regimen and she was bradycardic at night when on a higher dose. 
Normotensive at time of discharge.   
.
# Atrial fibrillation: Mrs. ___ and 
post-operative course were complicated by atrial fibrillation. 
Before her laparotomy, she was evaluated by cardiology and her 
coumadin therapy she had been taking for her known atrial 
fibrillation was discontinued for the procedure. She had some 
rapid bouts of atrial fibrillation on ___ which required a 
diltiazem drip for control. On ___ she was taken to the O.R. 
with no significant cardiac events. Post-surgery she was 
monitored with serial EKGs, and continuous telemetry and she was 
eventually converted back to NSR with Amiodarone therapy. She 
was restarted on warfarin after her surgery and she continued 
metoprolol. After discussion with Dr. ___ warfarin was 
discontinued and she had her dose of Amiodarone tapered prior to 
discharge. She will see discuss length of her treatment and 
further dose adjustments at her upcoming cardiology follow-up 
appointment. She was discharged on 400mg Amiodarone BID. 
.
# Hypotension: She experienced hypotension preoperatively that 
required fluid boluses.  She also experienced hypotension post 
operatively that was asymptomatic.  Post operatively her 
hypotensive episodes were attributed to the combination of 
getting metoprolol and lasix per the surgical service notes. By 
the time she was transferred to the ___ service on 
post-operative day nine she was predominantly normotensive and 
she remained stable for the remainder of her hospital stay. 
.
# Edema: The patient had extensive lower extremity edema and 
less prominent upper extremity edema post-operatively. She was 
diuresed aggressively with lasix.  She then auto-diuresed for 
several days without the use of lasix. By the time of her 
transfer to the ___ service her swelling was minimal although 
still present. She ws seen by the physical therapy team and was 
able to ambulate and do some minimal exercises which markedly 
helped with her conditioning and edema collections. By time of 
discharge she was near to her usual baseline and she was not 
placed on any additional diuretics at discharge.
.
# GERD: She has a history of gastroesophageal reflux and she was 
continued on her usual famotidine medication for GI protection 
and relief during her stay.
.
# Diabetes Mellitus Type II: –Mrs. ___ is normally 
exercise and diet controlled. She was placed on an additional 
insulin sliding scale for tight control in the ___ 
setting and while in the hospital. She had well controlled 
fasting and prandial fingersticks which required minimal to no 
SSI coverage. At time of discharge, she was therefore not placed 
on any additional agents.
.
# Insomnia: She had some mild complaints of occasional insomnia 
during her hospital course which was effectively relieved with 
lorazepam 0.5 mg PO HS:PRN.   
.
# Nutrition /electrolytes: She required TPN post-operatively but 
was then transitioned to a regular diabetic diet which she 
tolerated very well. No issues with colostomy training and care. 
Nutrition helped with initial electrolyte balance and she was 
repleted as needed during her stay with close daily monitoring 
of all of her electrolytes.     
.
# Elevated LFTs: Mrs. ___ had some ___ noted during 
her hospital course  which was thought to be secondary to her 
antibiotics. Once she was tapered down to just Zosyn she seemed 
to have a resolution of these abnormal labs.  At the time of 
discharge her LFTs were back to normal ranges with AST 39, ALT 
33, ALP 82, LDH 199,  and total bilirubin 0.4. 
.
#Code Status: The patient was maintained as a full code status 
for the entirety of her hospital course. 

 
Medications on Admission:
Xalatan gtt
Atorvastatin 80mg qdaily 
Clopidogrel 75mg qdaily
Protonix 40 BID 
Aspirin 81mg daily
Ativan 0.5mg ___ PRN:QHS
Proventil HFA 90 mcg/Actuation Aerosol Inhaler
Prednisone 3mg daily
Docusate Sodium 100 BID
Warfarin ___ MWF/1.5 TTHSS
Azithromycin- finished course prior to admission for sore throat
Acyclovir 400mg tid
Metoprolol SR 100 qdaily
 
Discharge Medications:
1. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
2. Atorvastatin 20 mg Tablet Sig: Four (4) Tablet PO DAILY 
(Daily).  
3. Aspirin 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily).  
4. Albuterol Sulfate 90 mcg/Actuation HFA Aerosol Inhaler Sig: 
Four (4) Puff Inhalation Q4H (every 4 hours) as needed.  
5. Lorazepam 0.5 mg Tablet Sig: ___ Tablets PO HS (at bedtime) 
as needed: Please note that this medication makes you drowsy, 
please don't drive ot operate equipment/machinery while taking . 
 
6. Clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Amiodarone 200 mg Tablet Sig: Two (2) Tablet PO every twelve 
(12) hours.
Disp:*120 Tablet(s)* Refills:*2*
8. Prednisone 1 mg Tablet Sig: Three (3) Tablet PO QAM (once a 
day (in the morning)).  
9. Metoprolol Tartrate 25 mg Tablet Sig: 0.5 Tablet PO BID (2 
times a day).
Disp:*30 Tablet(s)* Refills:*2*
10. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO twice a day.  
11. Zosyn 4.5 gram Recon Soln Sig: One (1) syringe Intravenous 
every eight (8) hours for 18 days: Please take antibiotic via 
___ line up until your follow-up appointment on ___.
Disp:*54 syringe* Refills:*0*
12. Line Care
1.Please flush with 10cc saline SASH and PRN
2.Please flush with Heparin 10 Units/ml, 3cc SASH and PRN
13. Oxycodone 5 mg Capsule Sig: One (1) Capsule PO every six (6) 
hours as needed for pain for 15 doses: Please note that this 
medication makes you drowsy, please don't drive ot operate 
skilled machinery while taking this medication.
Disp:*15 Capsule(s)* Refills:*0*
14. Outpatient Lab Work
Please draw home CBC with differential, LFTs, Chemistry-10 panel 
on ___ and fax to Dr. ___ attention at 
___, Call Dr. ___ ___.
15. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours.  

 
Discharge Disposition:
Home with Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
-Diverticulitis
-Perforated sigmoid colon
-Intra-abdominal abscess
-Post-op hypotension-managed with fluid boluses 
-Post-op Atrial fibrillation-managed with IV to PO Amiodarone 
and Lopressor
-Post-op fever/pneumonia managed with IV antibiotics
-Post-op hyperglycemia-managed with insulin  
-Post-op fluid volume overload-managed with IV Lasix
-Pneumonia
-RSV
.
Secondary:
- Coronary Artery Disease (prior STEMI in ___, PCI/stenting 
to RCA)  
- Endoscopic CABG  (___)  
- history of Acute Myelogenous Leukemia, (s/p chemotherapy, 
radiation and bone marrow transplantation ___  
- Hypertension  
- Hypercholesterolemia  
- GERD  
- Type II Diabetes Mellitus - diet controlled  
- Diverticulosis, noted on colonoscopy ___ years ago  
- Occasional bronchospasm treated with Primatene Mist  
- History of SVC clot ___ PORT (s/p course of lovenox)  
- History of C.Difficile ___ & ___  
- History of VRE  
- History of Shingles  
- History of Asthma  

 
Discharge Condition:
Good. At time of discharge the patient was tolerating a 
diabetic/heart healthy/low sodium diet well and her vital signs 
were stable. She was in no apparent distress. 

 
Discharge Instructions:
You were admitted to the hospital because you had a perforated 
diverticulum.  You underwent surgery and had your sigmoid colon 
resected.  You now have an ostomy bag and you will get your 
colostomy bag removed once you undergo a later surgery to 
re-connect a section of your colon that still needs later 
attachment.  
.
You required blood and blood products during your 
hospitalization for anemia and low blood counts.  You went into 
an abnormal heart rhythm called atrial fibrillation but you were 
converted back to a normal rhythm with a medication called 
amiodarone.  You required high dose steroids while you were in 
the hospital but are now on your regular home dose of 
prednisone.  You also had a pneumonia, respiratory virus, and a 
later abdominal abscess and you were treated with an antibiotic 
called Zosyn. When you had some respiratory infections you had 
some additional shortness of breath which was relieved with 
supplemental oxygen, but you were gradually taken off of this 
once you were no longer short of breath. You also received 
inhaled pentamidine therapy during your stay. 

Please continue an additional 18 days of your Zosyn, until your 
next follow-up appointments on ___ with your surgeon 
and your oncologist.    
.
MEDICATION INSTRUCTIONS/ CHANGES:
1. Continue another 18 days of your Zosyn IV antibiotics through 
your PICC line until you follow-up with Dr. ___.
2. You have been placed on a new dose of metoprolol: metoprolol 
tartrate 12.5mg twice daily. 
3. Please continue taking daily Amiodarone to maintain a normal 
heart rhythm 
4. You have been given an additional prescripyion for pain 
medication if you have abdominal pain.
5. You no longer need to be on warfarin/coumadin. This was 
discussed with your cardiologist, ___. 
6. Otherwise please continue your prior home medications before 
this hospitalizations as outlined below. 
.
Please call your doctor or return to the ER if you have 
abdominal pains, diarrhea, bloody stool or discolored stool in 
your colostomy, new chest pain, chest pressure, chest tightness, 
cough , wheezing, vomiting, fevers, chills or any new concerning 
symptoms.
.
*Avoid lifting objects > 5lbs until your follow-up appointment 
with the surgeon. Avoid driving or operating heavy machinery 
while taking pain medications.
.
Incision care/recent drain removal site:
-You may shower, and wash surgical incisions.
-Avoid swimming and baths until your follow-up appointment.
-Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites, colostomy site or 
JP drain entry site.
.
Monitoring Ostomy Output/Prevention of Dehydration:
-Keep well hydrated
-Replace fluid loss from ostomy daily.
-Avoid only drinking plain water. Include ___ glasses a day of 
Gatorade and/or other vitamin drinks to replace electrolytes and 
nutrients.
-Your ostomy should put out between 1000mL to 1500mL per day, if 
you notice less output please call Dr. ___.
-If Ostomy output >1.5 liters in 24hrs, call Dr. ___.
.
 
Followup Instructions:
___